US04000143
Reaction of 2-(o-aminophenethyl)-1-methylpiperidine (80 g., 0.036 mole) with p-toluoyl chloride (6.2 g., 0.04 mole) in 50 ml. of pyridine according to the method of Example 25 provides 2'-[2-(1-methyl-2-piperidyl)ethyl]-p-toluanilide. Crystallization from isopropyl ether and then from isopropyl alcohol provides 3.9 g., (32%) of analytically pure material, m.p. 90.5°-92° C. (corr.).

reactant | 2-(o-aminophenethyl)-1-methylpiperidine | 0.036 mole, 80 g | NC1=C(CCC2N(CCCC2)C)C=CC=C1 | C14H22N2
reactant | p-toluoyl chloride | 0.04 mole, 6.2 g | C1(=CC=C(C=C1)C(=O)Cl)C | C8H7ClO
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 2'-[2-(1-methyl-2-piperidyl)ethyl]-p-toluanilide | CN1C(CCCC1)CCC1=C(NC(=O)C2=CC=C(C=C2)C)C=CC=C1 | C22H28N2O
